US06797726B1
In 20 mL of ethanol is dissolved 1.90 g of 5-{2-[2-(diethylamino)ethoxy]ethyl}-benzo[b]thiophen-2-carboxylic acid, to which is added 5.6 mL of 1.38 mol/L solution of dry hydrogen chloride in ethanol. The resulting mixture is stirred at ambient temperature for 2 hours, and diluted with 20 mL of ethyl acetate. The deposited crystal is collected by filtration, washed with ethyl acetate and dried to obtain 1.51 g of 5-{2-[2-(diethylamino)ethoxy]ethyl}-benzo[b]thiophene-2-carboxylic acid hydrochloride.

reactant | 5-{2-[2-(diethylamino)ethoxy]ethyl}-benzo[b]thiophen-2-carboxylic acid | 1.90 g | C(C)N(CCOCCC1=CC2=C(SC(=C2)C(=O)O)C=C1)CC | C17H23NO3S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 5-{2-[2-(diethylamino)ethoxy]ethyl}-benzo[b]thiophene-2-carboxylic acid hydrochloride | 1.51 g | Cl.C(C)N(CCOCCC1=CC2=C(SC(=C2)C(=O)O)C=C1)CC | InChI=1S/C17H23NO3S.ClH/c1-3-18(4-2)8-10-21-9-7-13-5-6-15-14(11-13)12-16(22-15)17(19)20;/h5-6,11-12H,3-4,7-10H2,1-2H3,(H,19,20);1H
